US05506219
Acetophenone (11.433 gm, 95 mmol) was added dropwise over a five minute period to a solution of lithium bis(trimethylsilyl)amide (1.0M in THF, 100 ml, 100 mmol) in THF (50 ml) kept at -78° C. After 30 minutes, isobutyraldehyde (6.87 gm, 95 mmol) was added dropwise and stirring was continued for an additional hour. The mixture was quenched with saturated NH4Cl (100 ml), warmed to room temperature, diluted with H2O and extracted 2× with Et2O. The combined Et2O extracts were washed with brine, dried (Na2SO4), filtered and stripped to yield an oil. The oil was distilled (P=1.5 mm) and the fraction boiling between 120°-124° C. was chromatographed (flash, Merck SiO2, 15% EtOAc in hexane) to give the desired 3-hydroxy-4-methyl-1-phenyl-1-pentanone as a colorless liquid (9.13 gm, 50%)

reactant | Acetophenone | 95 mmol, 11.433 gm | C(C)(=O)C1=CC=CC=C1 | C8H8O
reactant | lithium bis(trimethylsilyl)amide | 100 mmol, 1.0M, 100 ml | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | isobutyraldehyde | 95 mmol, 6.87 gm | C(C(C)C)=O | C4H8O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 3-hydroxy-4-methyl-1-phenyl-1-pentanone | 9.13 gm, 50% | OC(CC(=O)C1=CC=CC=C1)C(C)C | C12H16O2
